US05097023
A mixture of sodium azide (1.72 g, 26.4 mmol) and 1,4-di-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol (13.9 g, 24 mmol) in dimethylformamide (500 mL) is heated overnight at 60° C. under stirring. Dimethylformamide is evaporated under reduced pressure. The residue is dissolved in ethyl acetate and washed with water. The organic layer is dried over sodium sulfate, filtered and concentrated under reduced pressure, yielding an oil. Flash chromatography on silica gel and elution with a 7:3 mixture of cyclohexane and ethyl acetate yield 1-azido-1-deoxy-4-O-methanesulfonyl -2,3,5-tri-O-benzyl-L-xylitol (8.6 g, 63%) as an oil.

reactant | sodium azide | 26.4 mmol, 1.72 g | [N-]=[N+]=[N-].[Na+]
reactant | 1,4-di-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol | 24 mmol, 13.9 g | CS(=O)(=O)OC[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C28H34O9S2
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 1-azido-1-deoxy-4-O-methanesulfonyl -2,3,5-tri-O-benzyl-L-xylitol | 8.6 g, 63% | N(=[N+]=[N-])C[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C27H31N3O6S
